US05489593
3,5-Dimethyl-4-methoxybenzoic acid ethyl ester
A solution of 4-bromo-2,6-dimethylanisole (PREPARATION 1, 12.98 g) in tetrahydrofuran (40 ml) is added drop by drop to a mixture of magnesium turnings (1.87 g) in tetrahydrofuran (5 ml). The Grignard reaction is initiated with iodine crystals. After the addition is complete, the mixture is refluxed for 2 hours. The Grignard reagent is cooled to about 10° and then a solution of ethyl chloroformate (7.5 ml) in tetrahydrofuran (40 ml) is added in a 2 minute period. The mixture is stirred for 45 minutes at ice-water temperature and then at 20°-25° for 2 hours. The reaction is quenched with a saturated solution of ammonium chloride and diluted with ether. The phases are separated, the organic phase is washed with water and then with saline, dried over sodium sulfate, and concentrated under reduced pressure to give the title compound.

reactant | 4-bromo-2,6-dimethylanisole | 12.98 g | BrC1=CC(=C(C(=C1)C)OC)C | C9H11BrO
reactant | magnesium | 1.87 g | [Mg] | Mg
reactant | iodine crystals | II | I2
reactant | ethyl chloroformate | 7.5 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,5-Dimethyl-4-methoxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C)OC)C)=O | C12H16O3
